US06077832
Sodium carbonate (0.28 g, 2.65 mmol) and 2-bromo-5,6-dichloro-1-(2,3,5-tri-O-acetyl-beta-L-ribofuranosyl)-1H-benzimidazole (1.39 g, 2.65 mmol) were combined with water (4 mL), methanol (20 mL) and ethanol (20 mL) and stirred at rt for 1.5 h. Acetic acid (0.3 mL, 5.3 mmol) was added and the suspension was concentrated to a solid. Purification of the residue on a silica gel column (2.5×20 cm, 230-400 mesh) with 1:9 ethanol: CH2Cl2 gave 2-bromo-5,6-dichloro-1-beta-L-ribofuranosyl-1H-benzimidazole as a white amorphous solid (0.79 g, 2.0 mmol, 75%); m.p. 169° C.; [a]20D =(+) 105 (c=0.5 DMF); UV lmax (e): pH 7.0: 298 nm (6,700), 289 (6,500), 255 (6,900); 0.1 N NaOH: 298 nm (6,700), 295 (5,400), 256 (6,700); MS (CI): m/z 399 (M+1); 1H NMR (DMSO-d6) d 8.57 (s, 1H, Ar--H), 7.96 (s, 1H, Ar--H), 5.89 (d, J=7.9 Hz, H-1'), 5.48 (d, 1H, OH, J=6.3 Hz), 5.42 (t, 1H, OH, J=4.5 Hz), 5.29 (d, 1H, OH, J=4.2 Hz), 4.43 (apparent dd, 1H, H-2', J=13.3 Hz, J=6.1 Hz), 4.14 (apparent t, 1H, H-3', J=4.3 Hz), 4.01 (apparent d, 1H, H-4', J=1.7 Hz), 3.77-3.63 (m, 2H, H-5').

reactant | Sodium carbonate | 2.65 mmol, 0.28 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-bromo-5,6-dichloro-1-(2,3,5-tri-O-acetyl-beta-L-ribofuranosyl)-1H-benzimidazole | 2.65 mmol, 1.39 g | BrC1=NC2=C(N1[C@@H]1[C@@H](OC(C)=O)[C@@H](OC(C)=O)[C@@H](O1)COC(C)=O)C=C(C(=C2)Cl)Cl | C18H17BrCl2N2O7
reactant | water | 4 mL | O | H2O
reactant | Acetic acid | 5.3 mmol, 0.3 mL | C(C)(=O)O | C2H4O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | methanol | 20 mL | CO | CH4O
product | 2-bromo-5,6-dichloro-1-beta-L-ribofuranosyl-1H-benzimidazole | BrC1=NC2=C(N1[C@@H]1[C@@H](O)[C@@H](O)[C@@H](O1)CO)C=C(C(=C2)Cl)Cl | C12H11BrCl2N2O4
